* Created by KLayout
*** My special header ***

* cell INV_X1
* pin A
* pin Y
* pin vss
* pin vdd
.SUBCKT INV_X1 A Y vss vdd
* device instance $1 r0 *1 4,47.8 PMOS
XM1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 5.4,8.2 NMOS
XM2 vss A Y vss NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1
