* Created by KLayout
*** My special header ***

* cell MUXDFFRB
* pin A
* pin B
* pin CK
* pin CKB
* pin CKP
* pin Q
* pin QB
* pin QM
* pin QS
* pin RSTB
* pin S
* pin vss
* pin vdd
.SUBCKT MUXDFFRB A B CK CKB CKP Q QB QM QS RSTB S vss vdd
* device instance $1 r0 *1 27.3,42.2 PMOS
XM1 vdd n9 n11 vdd PMOS L=1u W=11.2u AS=31.36p AD=31.36p PS=28u PD=28u
* device instance $2 r0 *1 48.4,39.2 PMOS
XM2 vdd n11 n24 vdd PMOS L=1u W=5.2u AS=14.56p AD=3.12p PS=16u PD=6.4u
* device instance $3 r0 *1 50.6,39.2 PMOS
XM3 n24 CKP n13 vdd PMOS L=1u W=5.2u AS=3.12p AD=7.8p PS=6.4u PD=8.2u
* device instance $4 r0 *1 54.6,39.2 PMOS
XM4 n13 CKB n14 vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $5 r0 *1 58.6,39.2 PMOS
XM5 n14 QM vdd vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $6 r0 *1 62.6,39.2 PMOS
XM6 vdd n13 QM vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $7 r0 *1 66.6,39.2 PMOS
XM7 QM CKB QS vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $8 r0 *1 70.6,39.2 PMOS
XM8 QS CKP n16 vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $9 r0 *1 74.6,39.2 PMOS
XM9 n16 QB vdd vdd PMOS L=1u W=5.2u AS=7.8p AD=20.28p PS=8.2u PD=15.4u
* device instance $10 r0 *1 80.6,41.8 PMOS
XM10 vdd QS QB vdd PMOS L=1u W=10.4u AS=20.28p AD=15.6p PS=15.4u PD=13.4u
* device instance $11 r0 *1 84.6,41.8 PMOS
XM11 QB RSTB vdd vdd PMOS L=1u W=10.4u AS=15.6p AD=29.12p PS=13.4u PD=26.4u
* device instance $12 r0 *1 36.4,41.8 PMOS
XM12 CKB CK vdd vdd PMOS L=1u W=10.4u AS=29.12p AD=15.6p PS=26.4u PD=13.4u
* device instance $13 r0 *1 40.4,41.8 PMOS
XM13 vdd CKB CKP vdd PMOS L=1u W=10.4u AS=15.6p AD=29.12p PS=13.4u PD=26.4u
* device instance $14 r0 *1 92.7,41.8 PMOS
XM14 vdd QB Q vdd PMOS L=1u W=10.4u AS=29.12p AD=29.12p PS=26.4u PD=26.4u
* device instance $15 r0 *1 5.1,48.2 PMOS
XM15 vdd S n3 vdd PMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $16 r0 *1 5.1,39.2 PMOS
XM16 vdd A n8 vdd PMOS L=1u W=5.2u AS=14.56p AD=7.8p PS=16u PD=8.2u
* device instance $17 r0 *1 9.1,39.2 PMOS
XM17 n8 S n9 vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $18 r0 *1 13.1,39.2 PMOS
XM18 n9 n3 n10 vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $19 r0 *1 17.1,39.2 PMOS
XM19 n10 B vdd vdd PMOS L=1u W=5.2u AS=7.8p AD=15.6p PS=8.2u PD=16.4u
* device instance $20 r0 *1 92.7,17.9 NMOS
XM20 vss QB Q vss NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $21 r0 *1 48.4,17.9 NMOS
XM21 vss n11 n20 vss NMOS L=1u W=3.4u AS=9.52p AD=2.04p PS=12.4u PD=4.6u
* device instance $22 r0 *1 50.6,17.9 NMOS
XM22 n20 CKB n13 vss NMOS L=1u W=3.4u AS=2.04p AD=5.1p PS=4.6u PD=6.4u
* device instance $23 r0 *1 54.6,17.9 NMOS
XM23 n13 CKP n14 vss NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $24 r0 *1 58.6,17.9 NMOS
XM24 n14 QM vss vss NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $25 r0 *1 62.6,17.9 NMOS
XM25 vss n13 QM vss NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $26 r0 *1 66.6,17.9 NMOS
XM26 QM CKP QS vss NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $27 r0 *1 70.6,17.9 NMOS
XM27 QS CKB n16 vss NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $28 r0 *1 74.6,17.9 NMOS
XM28 n16 QB vss vss NMOS L=1u W=3.4u AS=5.1p AD=8.5p PS=6.4u PD=8.4u
* device instance $29 r0 *1 80.6,17.9 NMOS
XM29 vss QS n19 vss NMOS L=1u W=3.4u AS=8.5p AD=2.21p PS=8.4u PD=4.7u
* device instance $30 r0 *1 82.9,17.9 NMOS
XM30 n19 RSTB QB vss NMOS L=1u W=3.4u AS=2.21p AD=9.52p PS=4.7u PD=12.4u
* device instance $31 r0 *1 36.4,17.9 NMOS
XM31 CKB CK vss vss NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $32 r0 *1 40.4,17.9 NMOS
XM32 vss CKB CKP vss NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $33 r0 *1 5.1,17.9 NMOS
XM33 vss A n8 vss NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $34 r0 *1 9.1,17.9 NMOS
XM34 n8 n3 n9 vss NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $35 r0 *1 13.1,17.9 NMOS
XM35 n9 S n10 vss NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $36 r0 *1 17.1,17.9 NMOS
XM36 n10 B vss vss NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $37 r0 *1 27.3,17.9 NMOS
XM37 vss n9 n11 vss NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $38 r0 *1 11.5,8.2 NMOS
XM38 vss S n3 vss NMOS L=1u W=3.4u AS=10.2p AD=9.52p PS=12.8u PD=12.4u
.ENDS MUXDFFRB
